US04053601
Preparation of 3-[2-(3-t-Butylamino-2-hydroxypropoxy)-4-hydroxyphenyl]-6-hydrazinopyridazine
3-[2-(3-t-Butylamino-2-hydroxypropoxy)-4-hydroxyphenyl]-6-chloropyridazine was reacted with hydrazine hydrate under similar conditions to those described in Example 7b(iii) to give the title compound.

reactant | 3-[2-(3-t-Butylamino-2-hydroxypropoxy)-4-hydroxyphenyl]-6-chloropyridazine | C(C)(C)(C)NCC(COC1=C(C=CC(=C1)O)C=1N=NC(=CC1)Cl)O | C17H22ClN3O3
reactant | hydrazine hydrate | O.NN
product | 3-[2-(3-t-Butylamino-2-hydroxypropoxy)-4-hydroxyphenyl]-6-hydrazinopyridazine | C(C)(C)(C)NCC(COC1=C(C=CC(=C1)O)C=1N=NC(=CC1)NN)O | C17H25N5O3
